US08871753B2
6-Chloro-14-(pyridin-3-ylcarbonyl)-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
The desired compound was prepared as a white powder according to the procedure of Example C22, step F, using 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene and nicotinoyl chloride hydrochloride as the starting materials in 60% yield. LCMS for C23H18ClN6O (M+H)+: m/z=429.0. 1H NMR (300 MHz, DMSO-d6): δ 9.43 (s, 1H), 9.15 (s, 1H), 8.40 (s, 1H), 8.14 (s, 2H), 7.89 (s, 1H), 7.62 (s, 1H), 7.23 (m, 4H), 7.10 (m, 4H), 4.85 (m, 2H).

reactant | 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | ClC=1C=NC=2NC=3C=CC=C(CNC4=CC=CC(NC1N2)=C4)C3 | C17H14ClN5
reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
product | 6-Chloro-14-(pyridin-3-ylcarbonyl)-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 60% yield | ClC=1C=NC=2NC=3C=CC=C(CN(C4=CC=CC(NC1N2)=C4)C(=O)C=4C=NC=CC4)C3 | C23H17ClN6O
